US08071824B2
2-(3,3-Dimethylbutyl)aniline
1 g (4.87 mmol) of 1-[3,3-dimethylbut-1-en-1-yl]-2-nitrobenzene are stirred in 20 ml of methanol with 0.26 g of palladium/carbon (10%) at 40° C. under 60 bar of hydrogen pressure for 24 hours. Subsequently, the solution is filtered with suction through Celite and the filtrate is concentrated by rotary evaporation. This gives 0.8 g (58% of theory) of an oil. Purity (GC-MS): 63%.

reactant | 1-[3,3-dimethylbut-1-en-1-yl]-2-nitrobenzene | 4.87 mmol, 1 g | CC(C=CC1=C(C=CC=C1)[N+](=O)[O-])(C)C | C12H15NO2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 20 ml | CO | CH4O
catalyst | palladium/carbon | 0.26 g | [Pd] | Pd
product | 2-(3,3-Dimethylbutyl)aniline | CC(CCC1=C(N)C=CC=C1)(C)C | C12H19N
